US05618941
3-Bromo-5-[1-(4-fluorophenyl)-1-hydroxyethyl]-benzaldehyde
A 2.5M solution of n-butyllithium in hexane (10.7 ml) was added dropwise to a stirred suspension of 3,5-dibromo-α-(4-fluorophenyl)-α-methylbenzenemethanol (5.90 g) in dry diethyl ether (160 ml) at -78° C. under an atmosphere of dry nitrogen. The resulting mixture was stirred at this temperature for 30 minutes and then N,N-dimethylformamide (2.93 g) was added dropwise. Stirring at -78° C. was continued for 1 hour and then the reaction was quenched by the addition of water. The temperature was allowed to reach room temperature and the organic layer was separated, washed with water and dried (MgSO4). Evaporation of the solvent gave an oil which was chromatographed on silica gel. Elution was commenced with hexane/dichloromethane (1:1), and the ratio was gradually changed to hexane/dichloromethane (1:5). The later product fractions were combined and evaporated to give the title compound as an oil (2.10 g), Rf 0.15 (SS 1). Found: C,55.39; H,3.78. C15H12BrO2F requires C,55.75; H,3.74%.

reactant | n-butyllithium | C(CCC)[Li]
reactant | 3,5-dibromo-α-(4-fluorophenyl)-α-methylbenzenemethanol | 5.90 g | BrC=1C=C(C=C(C1)Br)C(O)(C)C1=CC=C(C=C1)F | C14H11Br2FO
reactant | N,N-dimethylformamide | 2.93 g | CN(C=O)C | C3H7NO
solvent | hexane | 10.7 ml | CCCCCC | C6H14
solvent | diethyl ether | 160 ml | C(C)OCC | C4H10O
product | 3-Bromo-5-[1-(4-fluorophenyl)-1-hydroxyethyl]-benzaldehyde | 2.10 g | BrC=1C=C(C=O)C=C(C1)C(C)(O)C1=CC=C(C=C1)F | C15H12BrFO2
